US04278682
1-(2'-Ethoxycarbonyl-ethyl)-2,3,4,6,7,12-hexahydro-1H-indolo[2,3-a]quinolizine
2.2 g (10 mmoles) of 2,3,4,6,7,12-hexahydro-indolo[2,3-a]quinolizine are dissolved in 100 ml of dichloromethane, 0.5 ml of ethanol and 2.3 g (25 mmoles) of ethyl acrylate are added to the solution, and the mixture is allowed to stand at room temperature for 2 days under argon atmosphere. The solvent is evaporated in vacuo, the residue is triturated with 3×3 ml of petroleum ether, the liquid is decanted, and the solid is dried.

reactant | 2,3,4,6,7,12-hexahydro-indolo[2,3-a]quinolizine | 10 mmoles, 2.2 g | C=1CCCN2CCC3=C(C12)NC1=CC=CC=C13 | C15H16N2
reactant | ethanol | 0.5 ml | C(C)O | C2H6O
reactant | ethyl acrylate | 25 mmoles, 2.3 g | C(C=C)(=O)OCC | C5H8O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(2'-Ethoxycarbonyl-ethyl)-2,3,4,6,7,12-hexahydro-1H-indolo[2,3-a]quinolizine | C(C)OC(=O)CCC1CCCN2CCC3=C(C12)NC1=CC=CC=C13 | C20H26N2O2
